US04985419
A solution of 2-(2-cyano-10-phenothiazinyl)-1-propyl methanesulphonate (5 g) and (2RS,5RS)-2,5-dimethylpyrrolidine (5 g) in toluene (50 cc) is heated for 4 days to a temperature in the region of 100° C. After cooling, the reaction mixture is diluted with ethyl acetate (200 cc) and extracted successively with N aqueous hydrochloric acid solution (50 cc and 2×25 cc). The combined aqueous phases are alkalinized with 10N aqueous sodium hydroxide solution to pH 13, and extracted successively with ethyl ether (200 cc and 50 cc). The combined organic phases are dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 30° C. The residual yellow gum (2.8 g) is purified by chromatography on a column (height: 30 cm; diameter: 2 cm) of silica gel (0.2-0.063 mm), eluting with a mixture (80:20 by volume) (500 cc) of cyclohexane and ethyl acetate and collecting 30-cc fractions. The combined fractions 5 to 11 are concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The viscous yellow residue (2.4 g) is dissolved in isopropyl ether (15 cc) under reflux. The solution is cooled and then kept for 2 hours at a temperature in the region of 5° C. The crystals formed are drained, washed with isopropyl ether (2 cc) and dried under reduced pressure (5 mm Hg; 0.68 kPa) at 40° C. 10-((2RS)-1-[(2RS,5RS)-2,5-dimethyl-1-pyrrolidinyl]-2-propyl}-2-phenothiazine carbonitrile (1 g) is thereby obtained in the form of pale yellow crystals, m.p. 105° C.

reactant | 2-(2-cyano-10-phenothiazinyl)-1-propyl methanesulphonate | 5 g | CS(=O)(=O)OCC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C17H16N2O3S2
reactant | (2RS,5RS)-2,5-dimethylpyrrolidine | 5 g | CC1NC(CC1)C | C6H13N
solvent | toluene | 50 cc | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 200 cc | C(C)(=O)OCC | C4H8O2
product | 10-((2RS)-1-[(2RS,5RS)-2,5-dimethyl-1-pyrrolidinyl]-2-propyl}-2-phenothiazine carbonitrile | 1 g | CC1N(C(CC1)C)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C22H25N3S
